US06951883B2
Preparation of 2,2-dimethyl-propanoic acid 3-(4-methoxyphenyl)-4-oxo-4H-1-benzopyran-7-yl ester
Formononetine (90 g; 335 mmol) was suspended in acetonitrile, K2CO3 was added and the mixture was stirred for about 20 minutes at r.t. Pivaloyl chloride (59.85 g; 496 mmol) was dropped into the mixture, then the reaction was stirred for further 15 minutes and quenched into water. The solid was filtered, washed with water, dissolved in CHCl3; the solution was dried and evaporated to dryness to obtain the title compound, which can be crystallised from hot toluene. 102 g of a white crystalline powder were obtained.

reactant | Formononetine | 335 mmol, 90 g | COC=1C=CC(=CC1)C2=COC=3C=C(C=CC3C2=O)O | C16H12O4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | Pivaloyl chloride | 496 mmol, 59.85 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | acetonitrile | C(C)#N | C2H3N
product | 2,2-dimethyl-propanoic acid 3-(4-methoxyphenyl)-4-oxo-4H-1-benzopyran-7-yl ester | COC1=CC=C(C=C1)C1=COC2=C(C1=O)C=CC(=C2)OC(C(C)(C)C)=O | C21H20O5
